US05455258
N-(t-Butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino]hexanamide (2.17 g, 3.86 mmol) is dissolved in dichloroethane (12 mL) containing ethanol (0.22 mL, 3.86 mmol), and the reaction is cooled to -10° C. Hydrochloric acid gas is bubbled through this solution for 30 minutes. The reaction is sealed, warmed to room temperature and stirred for 2 days. The solvent is reduced to 1/2 volume by evaporating solvent, and triturated with ether. The resulting solid is removed and dried in vacuo to provide N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino]hexanamide hydrochloride, m.p. 105°-108° C.

reactant | N-(t-Butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino]hexanamide | 3.86 mmol, 2.17 g | C(C)(C)(C)ONC([C@@H](CCCCNC(CN(C)C)=O)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C28H42N4O6S
reactant | ethanol | 3.86 mmol, 0.22 mL | C(C)O | C2H6O
reactant | dichloroethane | 12 mL | ClC(C)Cl | C2H4Cl2
product | N-hydroxy-2(R)-[[4-methoxybenzenesulfonyl](benzyl)amino]-6-[(N,N-dimethylglycyl)amino]hexanamide hydrochloride | Cl.ONC([C@@H](CCCCNC(CN(C)C)=O)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | InChI=1S/C24H34N4O6S.ClH/c1-27(2)18-23(29)25-16-8-7-11-22(24(30)26-31)28(17-19-9-5-4-6-10-19)35(32,33)21-14-12-20(34-3)13-15-21;/h4-6,9-10,12-15,22,31H,7-8,11,16-18H2,1-3H3,(H,25,29)(H,26,30);1H/t22-;/m1./s1
